US07795283B2
iii) Methyl 4-methyl-1-(5-nitropyridin-2-yl)piperidine-4-carboxylate
To a solution of 2-chloro-5-nitropyridine (2.0 g, 12.62 mmol) in DMSO (20 mL) was added sodium carbonate (6.70 g, 63.08 mmol) followed by methyl 4-methylpiperidine-4-carboxylate hydrochloride (2.44 g, 12.62 mmol). The reaction mixture was heated to 60° C. for 2 hours. The reaction mixture was poured onto water (100 mL) and the suspension filtered, washed with water (4×150 mL) and dried to leave the title compound as a yellow solid (3.32 g, 11.89 mmol, 94%); 1H NMR (CDCl3) δ 1.26 (s, 3H), 1.46-1.52 (m, 2H), 2.21-2.25 (m, 2H), 3.26-3.32 (m, 2H), 3.74 (s, 3H), 4.16-4.20 (m, 2H), 6.56 (d, 1H), 8.18 (d, 1H), 9.03 (s, 1H); MS m/e MH+ 280.

reactant | 2-chloro-5-nitropyridine | 12.62 mmol, 2.0 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium carbonate | 63.08 mmol, 6.70 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 4-methylpiperidine-4-carboxylate hydrochloride | 12.62 mmol, 2.44 g | Cl.CC1(CCNCC1)C(=O)OC
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | Methyl 4-methyl-1-(5-nitropyridin-2-yl)piperidine-4-carboxylate | 11.89 mmol, 3.32 g, 94% | CC1(CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-])C(=O)OC | C13H17N3O4
